US06673795B2
In analogy to the procedure described in example 84c, 3-methylsulfanyl-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazine-6-carbonitrile was treated with ethanolamine in a sealed tube at 140° C. during 18 hours to yield 3-(2-hydroxy-ethylamino)-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazine-6-carbonitrile as an amorphous, white solid; MS: [M+H]+=326.

reactant | 3-methylsulfanyl-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazine-6-carbonitrile | CSC=1N=NC(=C(N1)N1CCN(CC1)C1=CC=CC=C1)C#N | C15H16N6S
reactant | ethanolamine | C(O)CN | C2H7NO
product | 3-(2-hydroxy-ethylamino)-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazine-6-carbonitrile | OCCNC=1N=NC(=C(N1)N1CCN(CC1)C1=CC=CC=C1)C#N | C16H19N7O
